US03941579
Beneath a solution of 20 g of trans-decahydroquinoline in 100 ml of benzene is introduced a layer consisting of a solution of 5.8 g of sodium hydroxide in 100 ml of water. While stiring vigorously and cooling to 5°-10°C, 20 g of chlorothioformic acid allyl ester are then added dropwise to the mixture. Upon completion of the reaction, stirring is continued for 3 hours, the phases are separated, the benzene phase is washed until neutral, dried, and the benzene evaporated in vacuo. The residual oil is distilled in vacuo to yield 24 g (70% of theory) of 1-(allylthiocarbonyl)-trans-decahydroquinoline (b.p. 110°-116°C/0.2 Torr).

reactant | trans-decahydroquinoline | 20 g | N1CCC[C@@H]2CCCC[C@@H]12 | C9H17N
reactant | sodium hydroxide | 5.8 g | [OH-].[Na+]
reactant | chlorothioformic acid allyl ester | 20 g | C(C=C)OC(=S)Cl | C4H5ClOS
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | 1-(allylthiocarbonyl)-trans-decahydroquinoline | 24 g, 70% | C(C=C)C(=S)N1CCC[C@@H]2CCCC[C@@H]12 | C13H21NS
